US07001897B2
To a solution of N-(t-butoxycarbonyl)glycine (1.51 g, 8.62 mmol) in anhydrous methylene chloride (75 ml) were added p-nitrobenzyl alcohol (2.63 ml, 17.2 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (hereinafter referred to as WSC) (3.3 g, 17.2 mmol) and 4-dimethylaminopyridine (106 mg, 0.87 mmol) in an ice bath. The mixture was stirred at room temperature under an atmosphere of nitrogen overnight. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The obtained organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using hexane:ethyl acetate (2:1) as the eluant to afford N-(t-butoxycarbonyl)glycine p-nitrobenzyl ester (2.67 g, yield 100%) as white crystals.

reactant | N-(t-butoxycarbonyl)glycine | 8.62 mmol, 1.51 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | p-nitrobenzyl alcohol | 17.2 mmol, 2.63 ml | [N+](=O)([O-])C1=CC=C(CO)C=C1 | C7H7NO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
reactant | WSC | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.87 mmol, 106 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(t-butoxycarbonyl)glycine p-nitrobenzyl ester | 2.67 g, yield 100% | [N+](=O)([O-])C1=CC=C(COC(CNC(=O)OC(C)(C)C)=O)C=C1 | C14H18N2O6
